Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ woman with a history of pituitary
adenoma, hypothyroidism, adrenal insufficiency, prolactinemia 
who presents with 4 days of headache associated with nausea 
vomiting. 

Patient has been having headaches since ___. 
Characterstic headache has been left frontotemporal radiating to 
the right, improved when laying down or when sleeping. It lasts 
hours to a full day at time. She was prescribed 
atenolol-chlorthalidone for headache/prophylaxis, and ?HTN and 
reports that she stopped having headaches while on the 
medication. She was recently stopped on the atenolol ___ weeks 
ago. Then 2 weeks ago, patient started to have persistent nausea 
and vomiting. 5 days ago, she had the recurrence of her 
headache. Denies any weakness, parasthesia, gait instability. 
She also has been having pain in her eye with lateral gaze on 
right and left. She denies any vision changes. Because of 
recurrence of headache with associated nausea and vomiting, she 
presented to the ED. 

She also notes 2 days ago, she also reports having 1 time 
fevers, chills as well as abdominal pain, and diarrhea. Denies 
sick contact or new ingestion. Diarrhea persisted until last 
night and since then she has felt constipated. Denies any 
dysuria.

In regards to her headache, she has presented to ED several 
times, with workup including a negative CT and LP with elevated 
opening pressure. The diagnosis of her pituitary adenoma was 
done about a month ago when she saw a neurologist who ordered an 
MRI. Since then, she has seen endocrinologist and was diagnosed 
with adrenal insufficiency on hydrocortisone, hypothyroidism on 
levothyroxine, and elevated prolactinoma now on cabergoline. 
There are plans for resection of her pituitary adenoma in the 
near future in coordination with neurology, neurosurgery, and 
endocrine. 
 
In the ED, initial vital signs were: 98.2 115 142/89 16 99% RA 
- Exam notable for: No focal neuro deficits 
- Labs were notable for BMP wnl, Hgb 11.5, TSH: 0.02, T4: 6.5, 
AST/ALT: 73/86. Flu negative. Serum tox negative
- Studies performed include...  
- Patient was given reglan 20mg, Benadryl 25mg, 3L NS, and home 
meds: levothyroxine, hydrocortisone, atenolol, chlorthalidone
- Vitals on transfer: 98.4 107 114/68 18

Upon arrival to the floor, the patient reports that her headache 
has now resolved. She states she has rhythmic sensation in her 
ears currently. No chest pain, shortness of breath

 
Past Medical History:
Pituitary adenoma
Hypothyroidism 
Adrenal Insuficiency
Elevated Prolactin
Amenorrhea
 
Social History:
___
Family History:
Negative for pituitary, thyroid or adrenal
conditions.  Positive for hypertension in mother, grandmother 
and
aunts.
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
Vitals- 98. 125/85 93 18 97% RA
GENERAL: AOx3 obese in no acute distress
HEENT: PERRL. EOMI. 
NECK: Thyroid is normal in size and texture, no nodules.  No 
cervical lymphadenopathy.
CARDIAC: Distant heart sounds. Otherwise RRR. S1, S2. No mrg
LUNGS: CTA b/l. No wheezes, crackles, or rhonchi
ABDOMEN: +BS. Mildly tender in epigastrium. No rebound, guarding 
or rigidity
EXTREMITIES: Warm, well perfused. 2+ DP pulses. No ___ edema
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: CN2-12 intact. ___ strength througout.  Normal 
sensation. No ataxia, dysmetria, pronator drift. Gait is normal.

PHYSICAL EXAM ON DISCHARGE

Vitals- T 98.0, 100-120s/60-70s 80-90s 18 97-98% RA
GENERAL: AOx3 obese in no acute distress
CARDIAC: Distant heart sounds. Otherwise RRR. S1, S2. No mrg
LUNGS: CTA b/l. No wheezes, crackles, or rhonchi
ABDOMEN: +BS. Mild tenderness in epigastrium. No rebound, 
guarding or rigidity
EXTREMITIES: Warm, well perfused. 2+ DP pulses. No ___ edema
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: Visual fields intact. Gait is normal.
 
Pertinent Results:
LABS ON ADMISSION

___ 05:50AM BLOOD WBC-7.6 RBC-3.63* Hgb-11.5 Hct-34.4 
MCV-95 MCH-31.7 MCHC-33.4 RDW-12.9 RDWSD-44.9 Plt ___
___ 05:50AM BLOOD Neuts-54.9 ___ Monos-6.4 Eos-2.9 
Baso-0.7 Im ___ AbsNeut-4.20 AbsLymp-2.65 AbsMono-0.49 
AbsEos-0.22 AbsBaso-0.05
___ 05:50AM BLOOD Plt ___
___ 05:50AM BLOOD Glucose-134* UreaN-4* Creat-0.8 Na-140 
K-4.6 Cl-99 HCO3-19* AnGap-27*
___ 05:50AM BLOOD ALT-86* AST-73* AlkPhos-54 TotBili-0.7
___ 05:50AM BLOOD Lipase-22
___ 05:50AM BLOOD Albumin-4.1
___ 05:50AM BLOOD TSH-0.02*
___ 05:50AM BLOOD T4-6.5
___ 02:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

LABS ON DISCHARGE

___ 07:35AM BLOOD WBC-6.0 RBC-3.56* Hgb-11.2 Hct-34.4 
MCV-97 MCH-31.5 MCHC-32.6 RDW-13.2 RDWSD-47.1* Plt ___
___ 07:35AM BLOOD Plt ___
___ 07:35AM BLOOD Glucose-114* UreaN-6 Creat-0.6 Na-143 
K-3.9 Cl-103 HCO3-31 AnGap-13
___ 07:35AM BLOOD Calcium-9.5 Phos-5.7* Mg-2.0
___ 07:35AM BLOOD FSH-PND LH-PND
___ 07:35AM BLOOD Cortsol-PND

IMAGING:

___ MRI pituitary:
12 x 14 x 14 mm sellar mass with suprasellar extension with mild 
mass effect on the optic chiasm is grossly stable in size 
compared to the recent prior examination of ___. There 
are smaller areas of cystic change/hemorrhage within the mass, 
slightly more prominent compared to prior examination. This 
likely represents a pituitary macroadenoma, although a small 
superimposed Rathke's cleft cyst cannot be excluded. 

CXR (___)
No acute intrathoracic process.

EKG: sinus tachycardia. QTC of ___ year old woman with a history of pituitary adenoma, 
hyperprolactinemia, adrenal insufficiency, and hypothyroidism 
who presented with severe headaches over the past five days. In 
the ED, she was afebrile, tachycardic, and normotensive. Her 
exam was unremarkable for focal neurologic findings with no 
evidence of increased intracranial pressure. She received 
reglan, Benadryl, and IV fluids. She was also restarted on 
atenolol and her headache improved. She had a repeat MRI 
pituitary which revealed that her pituitary adenoma was slightly 
larger than prior with mild mass effect on optic chiasm similar 
to prior. Neurology and neurosurgery evaluated patient with 
recommendations that her pituitary adenoma could be further 
managed as outpatient. Suspect headache may be due to migraines. 
She was prescribed sumatriptan as abortive therapy for her 
headache on discharge. 

#Headache
Patient's symptoms consistent with migraines that resolved with 
migraine cocktail in the ED. Also appears to have had great 
control of headaches with the use of atenolol for prophylaxis 
previously. Headache ay also have been precipitated by 
dehydration in setting of possible GI illness. Patient had no 
evidence of increased intracranial pressure. She was evaluated 
by neurology who also felt headache may be related to migraines. 
Patient remained headache free while on the medicine floor. She 
was discharged with sumatriptan. Also recommended use of 
Tylenol/ibuprofen for headache but gave caution on limiting use 
to avoid medication overuse headache

#Pituitary adenoma
Concern for rapid growth of pituitary adenoma causing worsening 
symptoms or even pituitary apoplexy. However, her symptoms 
currently are stable. Repeat MRI pituitary was obtained, which 
revealed a grossly stable pituitary adenoma. Neurosurgery was 
consulted, who recommended outpatient management. 

#Abdominal Pain/Diarrhea
___ have had gastroenteritis given diarrhea. Her diarrhea has 
now improved. Vomiting/diarrhea likely contributed to 
dehydration perhaps precipitating headache. 
Her symptoms remained stable.

#Hypothyroidism
Pt with secondary hypothyroidism likely related to pituitary 
adenoma. T4 of 6.5. Free T4 of 1.0. Continued home levothyroxine 
75mcg. 

#Adrenal Insufficiency
Related to pituitary adenoma. Continued home hydrocortisone 20mg 
qam, 10mg 3pm
Repeated AM cortisol pending at discharge.

#Elevated prolactin
Patient with long history of amenorrhea. Patient was recently 
started on cabergoline. Repeat prolactin level improved from 
previous. Patient continues on cabergoline weekly as instructed 
by endocrinology.

#Transaminitis
Patient still with mildly elevated transaminitis, a couple 
months after her episode of Tylenol toxicity. ___ have NASH. 
Recommend RUQ ultrasound as outpatient

TRANSITIONAL ISSUES
==========================
[] F/U FSH, LH, and AM cortisol
[] Discharged on sumatriptan for migraine abortive therapy. 
Please assess if effective.
[] Restarted atenolol for migraine prophylaxis. Please assess if 
effective.
[] Repeat EKG to monitor QTc as patient on Zofran. Discharge 
QTc: 452
[] Continue management of pituitary adenoma as outpatient with 
neurology, neurosurgery, and endocrine.
[] Dr. ___ will see her in the office. At next appointment 
with Endocrine, please inform Dr. ___ office at ___ 
to schedule. 
[] Consider RUQ ultrasound given persistently elevated 
transaminases

#Code status: Full
#Emergency contact: ___ (brother) - ___. ___ 
(aunt) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrocortisone 20 mg PO QAM 
2. Hydrocortisone 10 mg PO AT 3PM DAILY 
3. Chlorthalidone 25 mg PO DAILY 
4. cabergoline 0.5 mg oral 1X/WEEK 
5. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1.  Ondansetron 4 mg PO DAILY:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth daily Disp #*10 
Tablet Refills:*0 
2.  Sumatriptan Succinate 50 mg PO ONCE MR1 Duration: 1 Dose 
RX *sumatriptan succinate 50 mg 1 tablet(s) by mouth AS DIRECTED 
Disp #*9 Tablet Refills:*0 
3.  atenolol-chlorthalidone 50-25 mg oral DAILY 
RX *atenolol-chlorthalidone 50 mg-25 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
4.  cabergoline 0.5 mg oral 1X/WEEK  
5.  Hydrocortisone 20 mg PO QAM  
6.  Hydrocortisone 10 mg PO AT 3PM DAILY  
7.  Levothyroxine Sodium 75 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Migraine headache

SECONDARY:
Pituitary adenoma
Hyperprolactinemia
Hypothyroidism
Adrenal insufficiency
Transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you.

Why were you admitted?
- You were admitted because of worsening headache over the past 
five days.

What did we do for you?
- We evaluated potential causes of your headaches. MRI showed 
that your pituitary mass was stable. Most probably, your 
headache was due to Migraine, for which you were treated with 
fluids, anti-nausea medication, Benadryl, and atenolol with 
improvement in your headache.
- You were evaluated by neurosurgery and neurology and there was 
no role for surgery during this admission.

What should you do when you get home?
- Please continue taking your migraine medications: 1) atenolol 
daily to prevent headaches, and 2) sumatriptan for symptomatic 
relief of headache as needed.
- At the first sign that your headache is returning, please take 
sumatriptan 50mg. If not improved, can take an additional 50mg. 
Please do not take sumatriptan more than twice a day, and no 
more than 4 times a week, or 9 times a month. 
- You can also try 1000mg Tylenol or 600mg ibuprofen for your 
headache.
- If you are nauseous, you can take 1 pill of ondansetron 
(Zofran). Please do not take more than once a day. 
- It will be important for you to follow up with neurology, 
neurosurgery, and endocrinology.

We wish you the best,
Your ___ team

 
Followup Instructions:
___